US08080568B1
To a stirred solution of 3-aminobenzonitrile (2.50 g, 21.10 mmol) in anhydrous DMSO (30 mL) at 0° C. was added NaH (0.61 g, 25.39 mmol) portionwise, and the mixture was stirred at room temperature for 20 min and then treated with bromoacetaldehyde diethyl acetal (4.20 g, 21.10 mmol). After 2 h, to it, saturated aqueous NH4Cl (20 mL) was added slowly at 0° C., and the reaction mixture was extracted with EtOAc (2×50 mL). The EtOAc solution was dried over anhydrous Na2SO4, filtered, and evaporated to dryness under reduced pressure. The residue was purified by MPLC on silica gel using EtOAc and hexane as eluent to give 3-(2,2-diethoxyethylamino)benzonitrile (0.86 g, 17%) as a light orange oil. 1H NMR (400 MHz, CDCl3): δ 7.22 (td, 1H, J=7.8, 0.6 Hz), 6.97 (m, 1H), 6.84-6.81 (m, 2H), 4.67 (t, 1H, J=5.4 Hz), 3.77-3.69 (m, 2H), 3.61-3.53 (m, 2H), 3.24 (d, 2H, J=5.6 Hz), 1.24 (t, 6H, J=7.0 Hz).

reactant | 3-aminobenzonitrile | 21.10 mmol, 2.50 g | NC=1C=C(C#N)C=CC1 | C7H6N2
reactant | NaH | 25.39 mmol, 0.61 g | [H-].[Na+]
reactant | bromoacetaldehyde diethyl acetal | 21.10 mmol, 4.20 g | C(C)OC(CBr)OCC | C6H13BrO2
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | 3-(2,2-diethoxyethylamino)benzonitrile | 0.86 g, 17% | C(C)OC(CNC=1C=C(C#N)C=CC1)OCC | C13H18N2O2
